US07906546B2
To a stirred solution of 1.74 g (11 mmol) of 2-methyl-oxazole-4-carboxylic acid ethyl ester in 15 mL tetrachloromethane at RT, 2.994 g (17 mmol, 1.5 eq) N-bromosuccinimide and 50 mg (0.2 mmol, 0.02 eq) benzoyl peroxyde were added. The reaction mixture was stirred under reflux overnight. The reaction mixture was filtered, the filtrate was extracted with CH2Cl2 and Na2S2O3 solution. The combined organic phases were dried over Na2SO4, filtered and evaporated to dryness to yield 265 mg (10%) of 2-bromomethyl-oxazole-4-carboxylic acid ethyl ester as an yellow oil, MS: 235 (MH+).

reactant | 2-methyl-oxazole-4-carboxylic acid ethyl ester | 11 mmol, 1.74 g | C(C)OC(=O)C=1N=C(OC1)C | C7H9NO3
reactant | N-bromosuccinimide | 17 mmol, 2.994 g, 1.5 eq | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxyde | 0.2 mmol, 50 mg, 0.02 eq | C1=CC=C(C=C1)C(=O)OOC(=O)C2=CC=CC=C2 | C14H10O4
solvent | tetrachloromethane | 15 mL | ClC(Cl)(Cl)Cl | CCl4
product | 2-bromomethyl-oxazole-4-carboxylic acid ethyl ester | 265 mg, 10% | C(C)OC(=O)C=1N=C(OC1)CBr | C7H8BrNO3
